US05382590
0.3 g of 5% palladium-on-charcoal is added to a solution of 1.8 g of N-methyl-2-{2-[3-(3-nitrophenyl)ureido]-N-phenylacetamido}-N-phenylacetamide in 100 cm3 of ethanol. The suspension obtained is stirred for 2 hours at a temperature close to 50° C under a hydrogen atmosphere (100 kPa). After cooling, the catalyst is separated off by filtration and the solution is concentrated to dryness under reduced pressure (2.7 kPa) at 35° C. The residue obtained is dissolved in 60 cm3 of an acetonitrile/diisopropyl ether mixture (20/80 by volume) and 5 cm3 of a 3.5N solution of hydrochloric acid in diisopropyl ether are added. The insoluble product formed is separated off by filtration, air-dried and recrystallization from ethanol. 0.9 g of 2-{2-[3-(3-aminophenyl)ureido]-N-phenylacetamido}-N-methyl-N-phenylacetamide hydrochloride melting at 220° C is thus obtained.

reactant | N-methyl-2-{2-[3-(3-nitrophenyl)ureido]-N-phenylacetamido}-N-phenylacetamide | 1.8 g | CN(C(CN(C(CNC(=O)NC1=CC(=CC=C1)[N+](=O)[O-])=O)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C24H23N5O5
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 cm3 | C(C)O | C2H6O
solvent | acetonitrile diisopropyl ether | 60 cm3 | C(C)#N.C(C)(C)OC(C)C
solvent | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
catalyst | palladium-on-charcoal | 0.3 g | [Pd] | Pd
product | 2-{2-[3-(3-aminophenyl)ureido]-N-phenylacetamido}-N-methyl-N-phenylacetamide hydrochloride | 0.9 g | Cl.NC=1C=C(C=CC1)NC(NCC(=O)N(C1=CC=CC=C1)CC(=O)N(C1=CC=CC=C1)C)=O | InChI=1S/C24H25N5O3.ClH/c1-28(20-11-4-2-5-12-20)23(31)17-29(21-13-6-3-7-14-21)22(30)16-26-24(32)27-19-10-8-9-18(25)15-19;/h2-15H,16-17,25H2,1H3,(H2,26,27,32);1H
